US07405299B2
Preparation of 6-Iodo-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester
Reflux a solution of 3-oxo-propionic acid ethyl ester (J. Med. Chem. 2001, 44(12), 1193-2003; 3.4 g, 23.7 mmol) and 2-amino-5-iodopyridine in 1:1 acetonitrile/ethanol (100 mL) overnight. Dilute with saturated aqueous sodium bicarbonate, extract into dichloromethane (4×100 mL), combine organics, and concentrate. Flash chromatography using appropriate ethyl acetate/hexane mixtures gives 3.7 g (78%) of the subtitled compound as an off-white solid. ES+ m/e 316.7 (M+1).

reactant | 3-oxo-propionic acid ethyl ester | 23.7 mmol, 3.4 g | C(C)OC(CC=O)=O | C5H8O3
reactant | 2-amino-5-iodopyridine | NC1=NC=C(C=C1)I | C5H5IN2
reactant | acetonitrile ethanol | 100 mL | C(C)#N.C(C)O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-Iodo-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 3.7 g, 78% | C(C)OC(=O)C1=CN=C2N1C=C(C=C2)I | C10H9IN2O2
